US05859006
Methyl 1,2,3,4-tetrahydro-1-(4-ethylphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, cis and trans isomers
The same method but starting from racemic tryptophan methyl ester and 4-ethylbenzaldehyde gave the cis and trans isomer of the title compound. Cis isomer:white solid 1H NMR (CDCl3)δ(ppm):7.65-7.1 (m, 9H, H aromatic); 5.25 (brs, 1H, H-1); 4 (dd, 1H, H-3); 3.9 (s, 3H, CO2CH3); 3.4 (ddd, 1H, H-4); 3.1 (m, 1H, H-4); 2.7 (q, 2H, CH2CH3) 1.4 (t, 3H, CH2CH3). Trans isomer:white solid m.p.:187° C.

reactant | racemic tryptophan methyl ester | COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C12H14N2O2
reactant | 4-ethylbenzaldehyde | C(C)C1=CC=C(C=O)C=C1 | C9H10O
product | Methyl 1,2,3,4-tetrahydro-1-(4-ethylphenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | C(C)C1=CC=C(C=C1)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OC | C21H22N2O2
